US08252935B2
c) 2-{5-[1-(1-Ethyl-propyl)-piperidin-3-yl]-4′-trifluoromethyl-biphenyl-3-yl}-4-methyl-pentanoic acid ethyl ester
To a solution of compound 33b, 4-Methyl-2-(5-piperidin-3-yl-4′-trifluoromethyl-biphenyl-3-yl)-pentanoic acid ethyl ester (42 mg, 0.093 mmol) in CH3CN (0.5 ml) was added 1-iodo-3-Bromopentane (21.0 mg, 0. 14 mmol) and cesium carbonate (61.0 mg, 0.186 mmol). The reaction was heated to 78° C. overnight. The subsequent addition of the reactants as described above and allowing the reaction to continue over a second night, resulted in ˜75% product: starting material. The reaction was cooled to room temperature, concentrated in vacuo, diluted with EtOAc, washed with NaHCO3, and brine. The solution was filtered, and concentrated, then purified via silica gel chromatography to give the product as a clear oil. (32.7 mg, 68% ) Calculated for C31H42F3NO2 (M+H) 517.67, Found 518.4.

reactant | 4-Methyl-2-(5-piperidin-3-yl-4′-trifluoromethyl-biphenyl-3-yl)-pentanoic acid ethyl ester | 0.093 mmol, 42 mg | C(C)OC(C(CC(C)C)C=1C=C(C=C(C1)C1CNCCC1)C1=CC=C(C=C1)C(F)(F)F)=O | C26H32F3NO2
reactant | 1-iodo-3-Bromopentane | 14 mmol, 21.0 mg | ICCC(CC)Br | C5H10BrI
reactant | cesium carbonate | 0.186 mmol, 61.0 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | CH3CN | 0.5 ml | CC#N | C2H3N
product | 2-{5-[1-(1-Ethyl-propyl)-piperidin-3-yl]-4′-trifluoromethyl-biphenyl-3-yl}-4-methyl-pentanoic acid ethyl ester | ~75% | C(C)OC(C(CC(C)C)C=1C=C(C=C(C1)C1CN(CCC1)C(CC)CC)C1=CC=C(C=C1)C(F)(F)F)=O | C31H42F3NO2
